US07786132B2
5,5-Dimethyl-1-(2-((4-(3-(trifluoromethyl)-2-thienyl)-2-pyrimidinyl)amino)ethyl)-2,4-imidazolidinedione
A sealed tube charged with 1-(2-(4-(3-iodothiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione (0.300 g, 0.656 mmol), copper (I) iodide (0.275 g, 1.44 mmol), spray-dried potassium fluoride (0.075 g, 1.3 mmol), triethyl(trifluoromethyl)silane (0.25 mL, 1.3 mmol), DMF (1.0 mL), and NMP (1.0 mL) was heated to 80° C. and allowed to stir for 72 h. At that time, the mixture was diluted with 20 mL dichloromethane and filtered. The pale green filtrate was then purified through Celite and the plug was washed with 10% MeOH/dichloromethane and H2O. The organic solvents were removed from the biphasic mixture in vacuo and the aqueous residue was then partitioned between dichloromethane and H2O. The organic phase was separated, concentrated and the residue purified by flash chromatography, eluting with 1-6% MeOH/dichloromethane to afford the product as a white solid. MS (M+H)+ 400.

reactant | 1-(2-(4-(3-iodothiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 0.656 mmol, 0.300 g | IC1=C(SC=C1)C1=NC(=NC=C1)NCCN1C(NC(C1(C)C)=O)=O | C15H16IN5O2S
reactant | potassium fluoride | 1.3 mmol, 0.075 g | [F-].[K+]
reactant | triethyl(trifluoromethyl)silane | 1.3 mmol, 0.25 mL | C(C)[Si](C(F)(F)F)(CC)CC | C7H15F3Si
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | copper (I) iodide | 1.44 mmol, 0.275 g | [Cu]I
solvent | NMP | 1.0 mL | CN1CCCC1=O | C5H9NO
product | 5,5-Dimethyl-1-(2-((4-(3-(trifluoromethyl)-2-thienyl)-2-pyrimidinyl)amino)ethyl)-2,4-imidazolidinedione | CC1(C(NC(N1CCNC1=NC=CC(=N1)C=1SC=CC1C(F)(F)F)=O)=O)C | C16H16F3N5O2S
